US07342007B2
a. (1S)-N-benzyl-1-phenylprop-2-en-1-amine (5a)
To a solution of (E)-cinnamyl methyl carbonate (0.50 g) in THF (10 mL) at RT under N2 was added the (S)-(1,1′-Dinaphthyl-2,2′-di-(S,S)-1-phenylethylphosphoramidite* (0.140 g), [Ir(COD)Cl]2 (0.035 g) and benzylamine (0.557 g). The reaction mixture was stirred at reflux overnight, then cooled to RT. MP-TsOH resin (4.07 mmol/g, 2 g) was added to the reaction mixture and the resulting mixture stirred for 1 hr. The resin was then filtered from the reaction mixture and thoroughly washed with MeOH. The isolated resin was then washed separately with ammonia (7 N in MeOH) and the filtrate was concentrated to an oil. The crude material was purified via column chromatography (5% EtOAc/hexanes) to give the desired product (0.26 g, 93.5% ee, 44% yield). 1H NMR (300 MHz, CDCl3) δ 3.73 (s, 2H), 4.22 (d, 1H), 5.12 (d, 1H), 5.22 (dd, 1H), 5.89-6.01 (m, 1H), 7.21-7.38 (m, 10H). MS APCI, m/z=224 (M+1). LC/MS 1.79 min., Method A.

reactant | (E)-cinnamyl methyl carbonate | 0.50 g | C(OC\C=C\C1=CC=CC=C1)(OC)=O | C11H12O3
reactant | benzylamine | 0.557 g | C(C1=CC=CC=C1)N | C7H9N
reactant | TsOH | 2 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1S)-N-benzyl-1-phenylprop-2-en-1-amine | 0.26 g, 44% yield | C(C1=CC=CC=C1)N[C@@H](C=C)C1=CC=CC=C1 | C16H17N
